US06326510B1
(b) Methyl 3-{2-[(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydro-2-naphthalenecarbonyl)amino]phenyl}acrylate
1.13 g (6.38 mmol) of methyl 2-aminophenyl acrylate, 30 ml of THF and 1 ml (7 mmol) of triethylamine are introduced into a round-bottomed flask. A solution of 1.6 g (6.38 mmol) of 5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoyl chloride is added dropwise and the mixture is stirred at room temperature for three hours. The reaction medium is poured into water and extracted with ethyl acetate, and the organic phase is separated out after settling has taken place, washed with water, dried over magnesium sulphate and evaporated. The residue obtained is purified by chromatography on a column of silica eluted with a mixture of heptane and ethyl acetate (95/5). After evaporating the solvents, 2.3 g (92%) of methyl 3-{2-[(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthalenecarbonyl)amino]phenyl}acrylate, with a melting point of 95-6° C., are collected.

reactant | THF | 30 ml | C1CCOC1 | C4H8O
reactant | triethylamine | 7 mmol, 1 ml | C(C)N(CC)CC | C6H15N
reactant | 5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoyl chloride | 6.38 mmol, 1.6 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)Cl)C | C15H19ClO
reactant | water | O | H2O
product | Methyl 3-{2-[(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydro-2-naphthalenecarbonyl)amino]phenyl}acrylate | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)NC1=C(C=CC=C1)C=CC(=O)OC)C | C25H29NO3
